US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using 1H-indole-3-aldehyde (1.5 g) and 4-octylaniline (2.1 g) as starting materials, [(1H-indol-3-yl)methyl](4-octylphenyl)amine (1.8 g) was obtained.

reactant | 1H-indole-3-aldehyde | 1.5 g | N1C=C(C2=CC=CC=C12)C=O | C9H7NO
reactant | 4-octylaniline | 2.1 g | C(CCCCCCC)C1=CC=C(N)C=C1 | C14H23N
product | [(1H-indol-3-yl)methyl](4-octylphenyl)amine | 1.8 g | N1C=C(C2=CC=CC=C12)CNC1=CC=C(C=C1)CCCCCCCC | C23H30N2
